US07144908B2
iii) 6-{[4-(3-Nitrophenyl)but-3-ynyl]oxy}hexyl acetate
A mixture of 1-{4-[(6-bromohexyl)oxy]but-1-ynyl}-3-nitrobenzene (4.18 g), sodium acetate (9.68 g), tetrabutylammonium bromide (384 mg) in DMF (15 ml) and water (10 ml) was heated to 75° C. for 6 h. The mixture was then allowed to cool to 20° C. and then extracted with Et2O. The organic solution was concentrated and purified by chromatography on a Biotage (40 g) eluting with Et2O-petroleum ether(1:19 increasing to 1:1) to give the title compound (2.973 g). LCMS RT=3.84 min.

reactant | 1-{4-[(6-bromohexyl)oxy]but-1-ynyl}-3-nitrobenzene | 4.18 g | BrCCCCCCOCCC#CC1=CC(=CC=C1)[N+](=O)[O-] | C16H20BrNO3
reactant | sodium acetate | 9.68 g | C(C)(=O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 384 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 6-{[4-(3-Nitrophenyl)but-3-ynyl]oxy}hexyl acetate | 2.973 g | C(C)(=O)OCCCCCCOCCC#CC1=CC(=CC=C1)[N+](=O)[O-] | C18H23NO5
